US04178460
Preparation of α-Isopropyl-4-methoxyphenylacetonitrile
A solution of sodium hydroxide (50%, 300 ml) is added to a solution of p-methoxyphenylacetonitrile (147 g, 1 mol), dicyclohexyl-18-crown-6 (18.63 g, 5 mol %), 2-bromopropane (320 g, 2.6 mol) and benzene (300 ml). The reaction mixture is heated to 45° C. and held for 4 days. The organic phase is separated, washed well with water (3×200 ml), dilute hydrochloric acid (1×200 ml), water (2×200 ml) and evaporated to an oil. Vacuum distillation gives the product (175.6 g, 81% real): boiling point 96° C. to 100° C. (0.15 mm); nmr (CDCl3) shows that the distilled material contains 12.5 mol % of the starting nitrile.

reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
reactant | p-methoxyphenylacetonitrile | 1 mol, 147 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | dicyclohexyl-18-crown-6 | 18.63 g | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
reactant | 2-bromopropane | 2.6 mol, 320 g | BrC(C)C | C3H7Br
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | α-Isopropyl-4-methoxyphenylacetonitrile | C(C)(C)C(C#N)C1=CC=C(C=C1)OC | C12H15NO
